US08686048B2
Intermediate 23: 2′,3,5-trifluorobiphenyl-4-amine
The title compound (0.492 g) was prepared from 4-bromo-2,6-difluoroaniline (0.5 g, 2.4 mmol) and 2-fluorophenylboronic acid (0.436 g, 3.12 mmol) as a yellow liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.51 (td, J 1.5, 7.9, 1H), 7.38-7.31 (m, 1H), 7.29-721 (m, 2H), 7.14 (d, J 8.6, 2H), 5.44 (s, 2H).

reactant | 4-bromo-2,6-difluoroaniline | 2.4 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 2-fluorophenylboronic acid | 3.12 mmol, 0.436 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 2′,3,5-trifluorobiphenyl-4-amine | 0.492 g | FC1=C(C=CC=C1)C1=CC(=C(C(=C1)F)N)F | C12H8F3N
